Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
allopurinol
 
Attending: ___.
 
Chief Complaint:
"I had A-fib"
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Patient is a ___ year old female with a PMHx of paroxysmol afib 
on coumadin, CAD w/ MI ___ s/p PCI, CHF, IDDM2 who is presenting 
with palpitations and ___ edema.

Patient started to have symptoms 5 days ago with worsening ankle 
swelling despite medication compliance. This morning she felt 
her heart pounding and palpitations similar to an episode ___ 
months ago when she was diagnosed with AFib, however it was 
worse then. She denies DOE, orthopnea, PND. Denies fevers, 
chills, chest pain, nausea, vomiting or diarrhea. Due to 
persistent symptoms this morning, patient presented to the ED 
for evaluation.

Of note, patient was admitted at the end of ___ with 
___ cellulitis, ___, HTN and hyperglycemia.

In the ED intial vitals were: 98.5, 122, 182/78, 18, 98% RA.
EKG showed afib with RVR to 124 without ischemic changes.   
Labs were notable for WBC 9.6K, Hct 35.5, INR 2.0, BNP of 2393, 
Cr 1.6 with K of 3.8.

CXR showed hyperinflation without cardiopulmonary process. 
Patient was given: 40mg IV lasix, metoprolol 25mg PO followed by 
metoprolol IV 5mg x2. HR improved to ___ with metoprolol.

Vitals on transfer: 97 158/88 16 99% RA.
 
On the floor she is having mild chest discomfort but it is 
improved. She is very upset that she was not given insulin with 
dinner.
 
ROS: Per HPI. Denies stroke/TIA/DVT/PE.
 
Past Medical History:
1. CARDIAC RISK FACTORS: + Diabetes, + Dyslipidemia + 
Hypertension

2. CARDIAC HISTORY:  
- CABG: None 
- PERCUTANEOUS CORONARY INTERVENTIONS: Reportedly in ___. 
- PACING/ICD: None

3. OTHER PAST MEDICAL HISTORY: 
- HTN, labile
- HLD
- HYPOTHYROIDISM 
- RETINAL ARTERY OCCLUSION - BRANCH 
- MIGRAINE EQUIVALENT 
- CAD/MI (MIs in ___ and ___: This demonstrated a mid 

RCA lesion which was stented with a drug-eluting stent. LAD had 
a proximal 30% stenosis, left circumflex had a ostial 50% 
stenosis. The distal RCA also had a 50% stenosis) 
- CHF (EF 60-65% in ___
- OBESITY,
- insulin-dependent DMII 
- Gout 
- Renal artery stenosis 
- CKDIII
- Anemia
- a-fib on anticoagulation
- Depression
 
Social History:
___
Family History:
"Everybody's dead. I don't remember."
 
Physical Exam:
ADMISSION PHYSICAL:
=============================
VS: 98.1, 168/110, 122, 20, 99/RA
GENERAL: obese, well appearing female in NAD  
HEENT: Anicteric sclera, PERRL, MMM  
NECK: Mild JVD  
CARDIAC: Tachycardic, irregular, normal S1/S2, no m/r/g 
LUNGS: CTA b/l, non-labored
ABDOMEN: Obese, +BS, soft, NT/ND
EXTREMITIES: 1+ edema of the ankles. WWP. 2+ DP pulses 
bilaterally.

DISCHARGE PHYSICAL:
==============================
Vitals: 97.5, 141/71 (115-155 SBP), 40s-90s in AF, 18, 98 on RA
Last 24 hours I/O: 1420/1400
Last 8 hours I/O: 60/500
Weight on admission: 103.8 kg
DISCHARGE WEIGHT: 103 kg

GENERAL: obese, well appearing female in NAD  
NECK: No appreciable JVD
CARDIAC: irregular, normal S1/S2, no m/r/g
LUNGS: very mild crackles at bases, non-labored
ABDOMEN: Obese, +BS, soft, NT/ND
EXTREMITIES: trace to 1+ edema of the ankles. WWP.
 
Pertinent Results:
ADMISSION LABS:
======================
___ 11:45AM BLOOD WBC-9.6 RBC-3.69* Hgb-11.8* Hct-35.5* 
MCV-96 MCH-31.9 MCHC-33.1 RDW-13.9 Plt ___
___ 11:45AM BLOOD Neuts-72.6* ___ Monos-6.5 Eos-2.4 
Baso-0.2
___ 11:45AM BLOOD ___ PTT-42.0* ___
___ 11:45AM BLOOD Glucose-187* UreaN-47* Creat-1.6* Na-136 
K-7.2* Cl-98 HCO3-26 AnGap-19
___ 11:45AM BLOOD proBNP-2393*
___ 01:17PM BLOOD CK-MB-2 cTropnT-0.02*
___ 05:35AM BLOOD CK-MB-2 cTropnT-0.01
___ 05:35AM BLOOD Calcium-9.1 Phos-3.6 Mg-2.0

DISCHARGE LABS:
======================
___ 05:55AM BLOOD WBC-5.7 RBC-3.20* Hgb-10.1* Hct-30.3* 
MCV-95 MCH-31.7 MCHC-33.5 RDW-14.3 Plt ___
___ 05:55AM BLOOD ___
___ 05:55AM BLOOD Glucose-219* UreaN-86* Creat-2.7* Na-133 
K-3.8 Cl-93* HCO3-26 AnGap-18
___ 05:55AM BLOOD Mg-2.3

STUDIES:
======================
CXR (___):
FINDINGS:
The lungs are hyperinflated but clear of focal consolidation, 
effusion, or vascular congestion. Cardiomediastinal silhouette 
is within normal limits. No acute osseous abnormalities 
identified. 
  
IMPRESSION:    
Hyperinflation without acute cardiopulmonary process. 

 
Brief Hospital Course:
Patient is a ___ with history of paroxysmal afib on coumadin, 
CAD w/ MI x4 and stents, CHF, and IDDM2 presenting with 
palpitations and ___ edema.

# Atrial fibrillation: Patient with afib with RVR in ED possibly 
related to mild volume overload triggering worsening afib
-Discharged on warfarin 5 mg daily, with instructions to have 
INR checked on ___
-Changed carvedilol to metoprolol succ 100 daily for rate 
control
-Added diltiazem 30 mg Q6H, and transitioned to 180 ER daily on 
discharge

# Hypertension: Hypertensive to 160s/100s on arrival to the 
floor. 
-Switched home carvedilol for metoprolol and diltiazem as above
-Initially increased irbesartan to 150mg BID but discharged on 
150 mg once daily given ___
-Held spironolactone on discharge for ___

# Acute on chronic diastolic heart failure: Last EF 60-65% in 
___. Unclear cause for CHF exacerbation, though patient was 
recently on prednisone. Denies dietary or medication 
indiscretions. No recent illnesses. Leg swelling started before 
palpitations, so suspect CHF triggered AF with RVR and not the 
other way around.
-Trops and CK-MB negative
-Diuresis with 2.5 of metolazone and 120 IV lasix
-Discharge with torsemide 40 mg daily for home diuretic, though 
this may need to be uptitrated as tolerated based on renal 
function
-DISCHARGE WEIGHT HERE: 103 kg

#Flu exposure from roommate
-Received oseltamivir x1 for prophylaxis then refused.

# CAD: 
-Continued asa 81mg
-Metoprolol and irbesartan as above
-Consider statin as outpatient

# IDDM. 
-Continued home lantus 20u QHS
-HISS with 10u with meals

# CKD III: Baseline cr 1.6, likely related to DM and HTN. 
Increase in Cr to 2.7 in the setting of diuresis.
-Patient given Rx to have Chem7 checked on ___, which should 
be followed up by PCP ___ ___
-Held home spironolactone, decreased home torsemide as above

Other home medications were continued without changes.

TRANSITIONAL ISSUES:
[ ] continue to titrate rate control medications, 
antihypertensive, and diuretics per outpatient cardiology and 
primary care
[ ] consider statin for history of CAD
[ ] f/u lytes and INR from ___ at PCP appointment on ___ to 
ensure resolution/improvement ___ (secondary to diuresis) and 
adjust warfarin dose PRN
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB or wheezing 
2. Aspirin 81 mg PO DAILY 
3. BuPROPion (Sustained Release) 150 mg PO QAM 
4. Carvedilol 25 mg PO BID 
5. Ezetimibe 10 mg PO DAILY 
6. Ferrous Sulfate 325 mg PO BID 
7. irbesartan 150 mg oral Daily 
8. Levothyroxine Sodium 112 mcg PO DAILY 
9. OxycoDONE (Immediate Release)  10 mg PO Q4H:PRN pain 
10. Spironolactone 25 mg PO DAILY 
11. Torsemide 40 mg PO BID 
12. Warfarin 2 mg PO 5X/WEEK (___) 
13. Cyanocobalamin 1000 mcg IM/SC MONTHLY 
14. Warfarin 2.5 mg PO 2X/WEEK (___) 
15. Glargine 20 Units Bedtime
Humalog 10 Units Breakfast
Humalog 10 Units Lunch
Humalog 10 Units Dinner

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB or wheezing 
2. Aspirin 81 mg PO DAILY 
3. BuPROPion (Sustained Release) 150 mg PO QAM 
4. Ezetimibe 10 mg PO DAILY 
5. Ferrous Sulfate 325 mg PO BID 
6. Glargine 20 Units Bedtime
Humalog 10 Units Breakfast
Humalog 10 Units Lunch
Humalog 10 Units Dinner
7. Levothyroxine Sodium 112 mcg PO DAILY 
8. OxycoDONE (Immediate Release)  10 mg PO Q4H:PRN pain 
9. Cyanocobalamin 1000 mcg IM/SC MONTHLY 
10. Outpatient Lab Work
INR (ICD9 427.31)
CHEM7 (ICD9 428.30)
Please send results to ___.
___
11. irbesartan 150 mg ORAL DAILY 
12. Torsemide 40 mg PO DAILY 
13. Diltiazem Extended-Release 180 mg PO DAILY 
RX *diltiazem HCl 180 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0
14. Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
15. Warfarin 5 mg PO DAILY16 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
atrial fibrillation with rapid ventricular response
acute on chronic diastolic heart failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for palpitation and leg 
swelling. We think that your legs were swollen because your 
heart was not adequately circulating blood (heart failure). As a 
result, your heart also became stressed and started beating too 
fast (AFib with rapid ventricular response).

We changed one of the medicines that control your heart rate in 
order to slow it down and added a new medicine to help control 
your heart rate and blood pressure. We also gave you medicine to 
remove fluid from your body (called a diuretic). Your heart rate 
came under control and your leg swelling improved.

You also had an injury to your kidneys, likely from trying to 
remove fluid with diuretics. You will have your kidney function 
tests monitored closely after discharge and we have stopped or 
decreased medications that may be harmful to your kidneys.

You should weigh yourself every day and call your PCP if your 
weight goes up by more than 3 lbs, as this could indicate that 
you are having more fluid build-up.

Unfortunately, during your stay you were exposed to someone with 
the flu. We offered you medicine to prevent you from also 
getting the flu and monitored you for signs of illness.

We have scheduled follow up appointments with cardiology and 
your primary care provider (detailed below). You should review 
your discharge medication list because it details the changes we 
made to your home medications. We are giving you a prescription 
to have your INR and electrolytes (including kidney function 
tests) checked on ___.

It was a pleasure taking care of you.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___